US07994203B2
Step 2: 3-[2-(2,4-Dimethyl-phenyl)-1-methyl-2-oxo-ethoxy]-5-methyl-1H-pyrazole-4-carboxylic acid ethyl ester:
To a well stirred mixture of 5-methyl-3-oxo-2,3-dihydro-1H-pyrazole4-carboxylic acid ethyl ester (200 mg, 1.18 mmol, 1 eq.) and K2CO3 (179 mg, 1.29 mmol, 1.1 eq.) in DMF (5 ml) is added dropwise a solution of 2-bromo-1-(2,4-dimethyl-phenyl)-propan-1-one (Intermediate BA) (298 mg, 1.23 mmol, 1.05 eq.) in DMF (2.5 ml) at 50° C. After the addition, the reaction mixture is further stirred at 50° C. for 1 h then poured into water (50 ml) and extracted with EtOAc (2×25 ml). The combined organic fractions are dried over Na2SO4, filtered and concentrated to dryness under reduced pressure. The resulting crude residue is purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, [iso-hexane/DCM 1:1]/TBME 95:5→7:3) to yield the title compound as a white solid. TLC: RF=0.74 (iso-hexane/DCM/TBME 1:1:2); HPLC: AtRet=2.30; MS: m/z 331.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 1.24 (t, J 7.1, 3H), 1.43 (d, J 6.8, 3H), 2.31 (s, 6H), 2.33 (s, 3H), 4.15 (m, 2H), 5.75 (q, J 6.8, 1H), 7.13 (m, 2H), 7.83 (m, 1H), 12.24 (br. s., 1H).

reactant | 5-methyl-3-oxo-2,3-dihydro-1H-pyrazole4-carboxylic acid ethyl ester | 1.18 mmol, 200 mg, 1 eq. | C(C)OC(=O)C=1C(NNC1C)=O | C7H10N2O3
reactant | K2CO3 | 1.29 mmol, 179 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-1-(2,4-dimethyl-phenyl)-propan-1-one | 1.23 mmol, 298 mg, 1.05 eq. | BrC(C(=O)C1=C(C=C(C=C1)C)C)C | C11H13BrO
reactant | water | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 3-[2-(2,4-Dimethyl-phenyl)-1-methyl-2-oxo-ethoxy]-5-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1C)OC(C(=O)C1=C(C=C(C=C1)C)C)C | C18H22N2O4
